### PR TITLE
feat: add unitary conjugation of partially-defined operators

### PR DESCRIPTION
**Pull request by adambornemann-glitch**
Added section G to `Physlib/Mathematics/LinearPMap.lean`: the conjugation `U A U⁻¹` of a partial linear map `A : H →ₗ.[ℂ] H` by a unitary `U : H ≃ₗᵢ[ℂ] H'` (a `LinearIsometryEquiv`), with domain `U (A.domain)`, and the lemmas that transfer operator properties across it.

- `LinearPMap.unitaryConj` : the conjugated operator `U A U⁻¹`
- `LinearPMap.mem_unitaryConj_domain_iff` : `x ∈ D(U A U⁻¹) ↔ U⁻¹ x ∈ D(A)`
- `LinearPMap.unitaryConj_apply` : defining formula `(U A U⁻¹) x = U (A (U⁻¹ x))`
- `LinearPMap.map_mem_unitaryConj_domain` : `U` maps `D(A)` into `D(U A U⁻¹)`
- `LinearPMap.unitaryConj_apply_map` : `(U A U⁻¹)(U y) = U (A y)` for `y ∈ D(A)`
- `LinearPMap.IsFormalAdjoint.unitaryConj` : conjugation preserves formal-adjoint pairs; symmetry transfer is the case `A = B`
- `LinearPMap.unitaryConj_dense_domain` : dense domain transfers
- `LinearPMap.unitaryConj_sub_smul_surjective` : surjectivity of `A - z • 1` transfers

### CODE REVIEW

File: Physlib/Mathematics/LinearPMap.lean [hunk 1]
```diff
@@ -382,4 +389,72 @@ lemma compRestricted_inverse_eq : f ∘ᵣ f.inverse = domRestrict 1 f.inverse.d
...
+
+/-- If `A` has dense domain, then so does `U A U⁻¹`: the domain `U⁻¹ ⁻¹' (A.domain)` is the
+preimage of a dense set under a homeomorphism. -/
+lemma unitaryConj_dense_domain (hdense : Dense (A.domain : Set H)) :
+    Dense ((unitaryConj U A).domain : Set H') := hdense.preimage U.symm.toHomeomorph.isOpenMap
+
+/-- If `A - z` is surjective for a scalar `z : ℂ`, then so is `U A U⁻¹ - z`. -/
+lemma unitaryConj_sub_smul_surjective {z : ℂ}
+    (h : ∀ φ : H, ∃ ψ : A.domain, A ψ - z • (ψ : H) = φ) (φ : H') :
+    ∃ ψ : (unitaryConj U A).domain, unitaryConj U A ψ - z • (ψ : H') = φ := by
```
Comment (gloges) [inline Physlib/Mathematics/LinearPMap.lean]:
```suggestion
lemma unitaryConj_sub_smul_surjective {z : ℂ} (h : Function.Surjective (A - z • 1).toFun) :
    Function.Surjective (unitaryConj U A - z • 1).toFun := by
```

File: Physlib/Mathematics/LinearPMap.lean [hunk 2]
```diff
@@ -382,4 +389,72 @@ lemma compRestricted_inverse_eq : f ∘ᵣ f.inverse = domRestrict 1 f.inverse.d
...
+  let y' : B.domain := ⟨U.symm (y : H'), (mem_unitaryConj_domain_iff U B).mp y.2⟩
+  calc ⟪LinearPMap.unitaryConj U A x, (y : H')⟫_ℂ
+      = ⟪A x', (y' : H)⟫_ℂ := U.inner_map_eq_flip _ _
+    _ = ⟪(x' : H), B y'⟫_ℂ := h x' y'
+    _ = ⟪(x : H'), LinearPMap.unitaryConj U B y⟫_ℂ := U.symm.inner_map_eq_flip _ _
+
+/-- If `A` has dense domain, then so does `U A U⁻¹`: the domain `U⁻¹ ⁻¹' (A.domain)` is the
+preimage of a dense set under a homeomorphism. -/
+lemma unitaryConj_dense_domain (hdense : Dense (A.domain : Set H)) :
+    Dense ((unitaryConj U A).domain : Set H') := hdense.preimage U.symm.toHomeomorph.isOpenMap
```
Comment (gloges) [inline Physlib/Mathematics/LinearPMap.lean]:
```suggestion
lemma HasDenseDomain.unitaryConj (hdense : A.HasDenseDomain) :
    (unitaryConj U A).HasDenseDomain := hdense.preimage U.symm.toHomeomorph.isOpenMap
```

File: Physlib/Mathematics/LinearPMap.lean (hunk 1 above)
Comment (gloges) [reply Physlib/Mathematics/LinearPMap.lean]: A bit clearer using `Function.Surjective` - I expect the proof just needs some superficial changes.

File: Physlib/Mathematics/LinearPMap.lean (hunk 2 above)
Comment (gloges) [reply Physlib/Mathematics/LinearPMap.lean]: This `HasDenseDomain` prop is available over in `Unbounded.lean`.

File: Physlib/Mathematics/LinearPMap.lean [hunk 3]
```diff
@@ -382,4 +389,72 @@ lemma compRestricted_inverse_eq : f ∘ᵣ f.inverse = domRestrict 1 f.inverse.d
 
 end Inverses
 
+/-!
+## G. Unitary conjugation
+-/
```
Comment (gloges) [inline Physlib/Mathematics/LinearPMap.lean]: I think this new section would be more at home over in `QuantumMechanics/Operators/Unbounded.lean`.

**Review by gloges — COMMENTED** [review]
Thanks, these look great!
Results for `LinearPMap` depending on the inner product structure are housed over in `QuantumMechanics/Operators/Unbounded.lean` for now so I think we should relocate this new section to that file. (Maybe we can consider moving section B there over to `Physlib/Mathematics` at some point.) I've left two other minor comments to help clean up the surjectivity lemma and tie in with the `HasDenseDomain` prop.

File: Physlib/Mathematics/LinearPMap.lean (hunk 3 above)
Comment (adambornemann-glitch) [reply Physlib/Mathematics/LinearPMap.lean]: That makes perfect sense to me (I almost put it there to begin with).  Were you thinking it would be section B.5, or become section D?

Comment (gloges) [reply Physlib/Mathematics/LinearPMap.lean]: Yes, B.5 would be great (or somewhere else in section B if you think it makes more sense).

File: Physlib/Mathematics/LinearPMap.lean (hunk 1 above)
Comment (adambornemann-glitch) [reply Physlib/Mathematics/LinearPMap.lean]: agreed, that is more readable.

File: Physlib/Mathematics/LinearPMap.lean (hunk 3 above)
Comment (adambornemann-glitch) [reply Physlib/Mathematics/LinearPMap.lean]: 😅 I definitely guessed that one wrong.  Changing it to B.5 from D now.

**Comment by adambornemann-glitch** [comment]
-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
Many thanks @gloges for  looking at this. This now looks good to me, so have approved.
